US04404137
3-(4-Chloro-2-nitroanilino)-1-methylpyrazole-4-carbonitrile
3-Amino-1-methylpyrazole-4-carbonitrile (Helv. Chim. Acta (1959) 42 763) (3.66 g) was stirred in dry tetrahydrofuran (40 ml). Sodium hydride (50% oil dispersion, 2.28 g) was added and the mixture was stirred for 10 minutes. 2,5-Dichloronitrobenzene (5.76 g) was added and the solution stirred under nitrogen for 20 hours. Water was added dropwise to destroy any excess sodium hydride, then the solution was poured on to a mixture of ice and dilute hydrochloric acid. After standing for 1 hour the brick-red precipitate was filtered, washed with water and dried. Crystallisation from ethanol-ethyl acetate afforded the product m.p. 205° C.

reactant | 3-Amino-1-methylpyrazole-4-carbonitrile | 3.66 g | NC1=NN(C=C1C#N)C | C5H6N4
reactant | Sodium hydride | 2.28 g | [H-].[Na+]
reactant | 2,5-Dichloronitrobenzene | 5.76 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(4-Chloro-2-nitroanilino)-1-methylpyrazole-4-carbonitrile | ClC1=CC(=C(NC2=NN(C=C2C#N)C)C=C1)[N+](=O)[O-] | C11H8ClN5O2
